US08937176B2
6.02.14.03 2-Benzyloxymethyl-1-ethyl-4-(4-fluoro-3-methyl-phenyl)-1H-imidazole
5.8 g 2-benzyloxy-N-ethyl-N-[2-(4-fluoro-3-methyl-phenyl)-2-oxo-ethyl]-acetamide and 4 g ammonium acetate was melted at 200° C. for 30 min Dichlormethane was added and the mixture was washed with aqueous potassiumhydrogen carbonate solution. The organic layer was evaporated. The residue was purified by chromatographie on silica gel (cyclohexane/ethyl acetate 4:1) to yield 4.1 g of the desired product. Rt: 0.74 min (method J), (M+H)+: 325

reactant | 2-benzyloxy-N-ethyl-N-[2-(4-fluoro-3-methyl-phenyl)-2-oxo-ethyl]-acetamide | 5.8 g | C(C1=CC=CC=C1)OCC(=O)N(CC(=O)C1=CC(=C(C=C1)F)C)CC | C20H22FNO3
reactant | ammonium acetate | 4 g | C(C)(=O)[O-].[NH4+]
solvent | Dichlormethane | ClCCl | CH2Cl2
product | 2-Benzyloxymethyl-1-ethyl-4-(4-fluoro-3-methyl-phenyl)-1H-imidazole | 4.1 g | C(C1=CC=CC=C1)OCC=1N(C=C(N1)C1=CC(=C(C=C1)F)C)CC | C20H21FN2O
